US08012976B2
5-(4-Bromophenyl)-3,4-dihydro-2H-pyrrole
tert-Butyl 4-(4-bromophenyl)-4-oxobutylcarbamate (3.42 g, 10 mmol) was stirred in TFA (10 mL) for 6 hrs. Then 50% NaOH solution was added to the mixture to make pH=13-14, the white precipitate was filtrated, washed with water and dried to give the title compound as a white solid (1.8 g, yield 80%). LC-MS (ESI) m/z: 224 (M+1)+.

reactant | tert-Butyl 4-(4-bromophenyl)-4-oxobutylcarbamate | 10 mmol, 3.42 g | BrC1=CC=C(C=C1)C(CCCNC(OC(C)(C)C)=O)=O | C15H20BrNO3
reactant | NaOH | [OH-].[Na+]
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(4-Bromophenyl)-3,4-dihydro-2H-pyrrole | 1.8 g, yield 80% | BrC1=CC=C(C=C1)C=1CCCN1 | C10H10BrN
